US07622471B2
1) (2S)-2-Dimethylaminomethylpyrrolidine
While cooling at −78° C., a solution of sulfuryl chloride (0.409 mL) in methylene chloride (30 mL) was added dropwise to a solution of (2S)-2-pyrrolidinemethanol (0.498 mL) and triethylamine (1.39 mL) in methylene chloride (30 mL) over a period of 10 minutes. The temperature of the resultant mixture was gradually returned to room temperature, followed by stirring of the mixture for 20 hours. The reaction mixture was partitioned between 1N aqueous hydrochloric acid and methylene chloride, and the organic layer was washed with saturated brine, followed by drying over sodium sulfate anhydrate. After filtration, the solvent was removed under reduced pressure, and a solution of 2.0M dimethylamine in tetrahydrofuran (25 mL) was added to the residue, followed by stirring in a sealed tube at an external temperature of. 100° C. for 14 hours and 30 minutes, and then cooled in air. Trifluoroacetic acid (one droplet) was added thereto. The resultant mixture was further stirred in a sealed tube at an external temperature of 100° C. for 21 hours and then cooled in air. The solvent was removed at normal pressure, and 2N aqueous sodium hydroxide (50 mL) was added to the residue, followed by stirring at 100° C. for 15 hours. The resultant mixture was cooled in air. Diethyl ether was added thereto for partitioning the mixture, and the organic layer was dried over sodium sulfate anhydrate. After filtration, the solvent was removed at normal pressure, to thereby give (2S)-2-dimethylaminomethylpyrrolidine.

reactant | sulfuryl chloride | 0.409 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (2S)-2-pyrrolidinemethanol | 0.498 mL | N1[C@@H](CCC1)CO | C5H11NO
reactant | triethylamine | 1.39 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (2S)-2-Dimethylaminomethylpyrrolidine | CN(C)C[C@H]1NCCC1 | C7H16N2
